US07220856B2
Preparation of (3S)-3-[[[4-(2-amino-7-chloro-4-quinolinyl)-1-piperazinyl]carbonyl]amino]hexahydro-N-methyl-2-oxo-1H-azepine-1-carboxamide:
As described for example 213, [(3R)-Hexahydro-1-[(methylamino)carbonyl]-2-oxo-1H-azepin-3-yl]carbamic acid-1,1-dimethylethyl ester, TFA, triphosgene, NaHCO3 (sat.), and 7-chloro-4-(1-piperazinyl)-2-quinolinamine are reacted to afford the product as a white powder. LC-MS, 473 (M+). 1H NMR (400 MHz, DMSO): 61.38 (m, 1H), 1.57 (m, 1H), 1.9 (m, 2H), 2.03 (br. d, 1H), 2.19 (s, 1H), 2.85 (d, 3H), 3.08 (m, 4H), 3.21 (m, 1H), 3.63 (m, 4H), 4.83 (m, 1H), 4.85 (m, 1H), 4.95 (s, 2H), 5.85 (d, 1H), 6.11 (s, 1H), 7.11 (dd, 1H), 7.56 (d, 1H), 7.67 (d, 1H), 8.91 (q, 1).

reactant | [(3R)-Hexahydro-1-[(methylamino)carbonyl]-2-oxo-1H-azepin-3-yl]carbamic acid-1,1-dimethylethyl ester | CC(C)(C)OC(N[C@H]1C(N(CCCC1)C(=O)NC)=O)=O | C13H23N3O4
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | triphosgene | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
reactant | 7-chloro-4-(1-piperazinyl)-2-quinolinamine | ClC1=CC=C2C(=CC(=NC2=C1)N)N1CCNCC1 | C13H15ClN4
product | (3S)-3-[[[4-(2-amino-7-chloro-4-quinolinyl)-1-piperazinyl]carbonyl]amino]hexahydro-N-methyl-2-oxo-1H-azepine-1-carboxamide | NC1=NC2=CC(=CC=C2C(=C1)N1CCN(CC1)C(=O)N[C@@H]1C(N(CCCC1)C(=O)NC)=O)Cl | C22H28ClN7O3
